2130-06-05 07:15:00 Physician Resident Progress Note
Chief Complaint:  transferred to ICU for dilt and lasix drip
   24 Hour Events:
   Patient converted to sinus rhythm at 07:45am [**2130-6-5**] on dilt drip.
   Dilt drip was then discontinued.
   No other events overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 8 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 82 (82 - 127) bpm
   BP: 88/52(61) {88/52(61) - 121/74(81)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     15 mL
                                                                    162 mL
   PO:
             TF:
   IVF:
                                                                     15 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                  1,530 mL
   Urine:
                                                                  1,140 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,125 mL
                                                                 -1,368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Gen: NAD, aao
   CV: Regular rate, irregularly irregular rhythm, no M/R/G
   Lungs: nonlabored breathing, NC 1.5L, CTA B
   Abd: +bs, soft, ntnd
   Ext: warm, 2+ distal pulses, no edema
   Labs / Radiology
   Blood cx: pending
   Urine cx: pending
   [**2130-6-4**] sputum cx: contamination
   150 K/uL
   11.7 g/dL
   105 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.1 mEq/L
   31 mg/dL
   103 mEq/L
   140 mEq/L
   33.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2130-6-5**]  03:15 AM
   WBC
   6.5
   Hct
   33.4
   Plt
   150
   Cr
   1.2
   Glucose
   105
   Other labs: Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   ASSESSMENT/ PLAN: 71-year-old male with a PMH of Hodgkin's lymphoma now
   w/ re-current lymphoma, here for first cycle of ICE.  Transferred to
   MICU on [**2130-6-4**] for HR management for AFib w/ RVR and lasix drip.
   .
   #. AFib w/ RVR: converted to sinus rhythm this am on dilt drip; patient
   not on coumadin.  Baseline out-pt SBP 120's.
   -- d/c dilt drip after conversion
   -- deferring coumadin for now, discuss with oncology
   -- will transition to long-acting dilt
   .
   #. Volume overload: several liters positive in setting of recent chemo
   (~10); SBP borderline, unable to tolerate IV lasix boluses.
   -- d/c lasix drip; switch to po. Lasix titrate up starting at 20mg po
   bid --> diuresis as aggressive as SBP > 95
   .
   #. s/p Chemo with ICE (ifosfanide, mesna, carboplatin, etoposide)
   -- scheduled for neupogen on [**2130-6-5**] (not currently neutropenic)
   -- onc following
   -- on levaquin for lowgrade fevers the other day
   .
   # Hypercholesterolemia: continue outpatient regimen.
   -Lovastatin 20mg
   .
   # FEN: Regular Diet; check [**Hospital1 **] lytes while diuresing
   .
   #. ACCESS: PICC
   .
   # PPx: Ambulate and pneumoboots
   .
   # CODE: Full
   .
   #. Dispo: to floor now that no longer needs lasix and dilt drips
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-6-4**] 08:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-06-07 07:22:00 Physician Resident Progress Note
Chief Complaint: A Fib.
   71-year-old male with a PMH of Hodgkin's lymphoma now w/ re-current
   lymphoma, here for first cycle of ICE.  Transferred to MICU on [**2130-6-4**]
   for HR management for AFib w/ RVR and lasix drip.
   24 Hour Events:
 PICC LINE - START [**2130-6-6**] 11:00 AM
   He has been in NSR since yesterday and he had a run of PVCs around
   midnight last night.
   He K was repleted
   We have been trying to diurese him.
   SUBJECTIVE:  Patient reports feeling well.  He cannot tell when his
   rhythm goes into afib.  He states that from looking at the monitor, his
   heart rate tends to be regular when he is sitting still and irregular
   with movement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 69 (62 - 115) bpm
   BP: 102/65(73) {83/43(53) - 130/79(88)} mmHg
   RR: 18 (18 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 80.2 kg
             Total In:
                                                                    714 mL
                                                                    136 mL
   PO:
                                                                    630 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     84 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,450 mL
   Urine:
                                                                  1,690 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -976 mL
                                                                 -1,314 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: A&O x3, pleasant conversant, NAD
   Lungs: Crackles at the bases bilat.
   CV: RRR, S1 & S2 nl, no m/r/g
   Abd: +BS, NT, ND, no masses, soft
   Ext: no edema
   Labs / Radiology
   Source: Line-picc
                                     142
                               [image002.gif]
                                     106
                               [image002.gif]
                                     33
   [image004.gif]
   107
                                                                   AGap=12
   [image005.gif]
   3.9
                               [image002.gif]
                                     28
                               [image002.gif]
                                     1.5
   [image007.gif]
   Ca: 8.7 Mg: 2.2 P: 3.3
   Source: Line-picc
   2.0 D
                                                            [image007.gif]
                                    11.1
   [image004.gif]
   105
                 [image008.gif]
   [image004.gif]
                                    31.4
   [image007.gif]
   Source: [**Name (NI) 2419**]
   PT: 14.4
   PTT: 25.0
   INR: 1.3
                             [**2130-6-5**]  03:15 AM
                             [**2130-6-5**]  02:33 PM
                             [**2130-6-6**]  05:16 PM
   WBC
   6.5
   Hct
   33.4
   Plt
   150
   Cr
   1.2
   1.4
   1.2
   Glucose
   105
   121
   118
   Other labs: Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Urine:
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.015
   pH
   7.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Mod
   Nitr
   Neg
   Prot
   100
   Glu
   Neg
   Ket
   Neg
   RBC
   57
   WBC
   1
   Bact
   None
   Yeast
   None
   Epi
   0
   Other Urine Counts
   Mucous: Rare
   Assessment and Plan
   ASSESSMENT/ PLAN: 71-year-old male with a PMH of Hodgkin's lymphoma now
   w/ re-current lymphoma, here for first cycle of ICE.  Transferred to
   MICU on [**2130-6-4**] for HR management for AFib w/ RVR.  Patient was
   transferred to the floor the next day and then readmitted to the ICU on
   [**2130-6-6**] for the Afib with RVR again.
   .
   #.AFib w/ RVR: converted to sinus rhythm yesterday afternoon; patient
   not on coumadin.  Baseline out-pt SBP 120's.
   -- deferring coumadin for now, discuss with oncology
   -- continued dilt long-acting dose of 120mg overnight.  Will increase
   dose to patient
s usual outpatient dose today Dilt of 180mg.
   .
   #. Volume overload: several liters positive in setting of recent chemo
   (~10); good diuresis overnight. SBP borderline,
   -- d/c lasix drip; switch to po. Lasix titrate up starting at 20mg po
   bid --> diuresis as aggressive as SBP > 95
   .
   #. s/p Chemo with ICE (ifosfanide, mesna, carboplatin, etoposide)
   -- onc following
   -- on levaquin for lowgrade fevers the other day
   .
   # Hypercholesterolemia: continue outpatient regimen.
   -Lovastatin 20mg
   .
   # FEN: Regular Diet; check [**Hospital1 **] lytes while diuresing
   .
   #. ACCESS: PICC
   .
   # PPx: Ambulate and pneumoboots
   .
   # CODE: Full
   .
   #. Dispo: to floor now that no longer needs lasix and dilt drips
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-6-6**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Present for key portions of history and physical examination.  Agree
   with assessment and plan as above. We have iuresed him substantially so
   hopefully his PAF will now be easier to control.  Hopefully he will not
   need a second [**Doctor Last Name **].  His counts are beginning to decline and he is not
   currently a candidate for systemic anticoagulation but should be
   reassessed in the future.
   Time spent 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2130-6-7**] 20:59 ------

2130-06-08 06:25:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR
   24 Hour Events:
   Did not start increased level of dilt secondary to low HR
   Episodes of a-fib overnight currently in sinus rhythm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-8**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 65 (55 - 106) bpm
   BP: 92/51(61) {91/38(51) - 119/76(83)} mmHg
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 80.2 kg
                  Total In:
                                                                    513 mL
                  PO:
                                                                    460 mL
                  TF:
   IVF:
                                                                     53 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                      0 mL
   Urine:
                                                                  3,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,187 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: NAD, resting in bed
   CV: RRR, no M/R/G
   Lungs: no labored breathing, requiring no supplemental O2, bilateral
   crackles
   Abd: +bs, ntnd
   Labs / Radiology
   [**2130-6-4**] Blood cx: pending
   [**2130-6-4**] Sputum cx: inadequate sample
   [**2130-6-4**] Urine cx:  NG
   80 K/uL
   10.2 g/dL
   111 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.3 mEq/L
   42 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   0.30 K/uL
        [image002.jpg]
                             [**2130-6-5**]  03:15 AM
                             [**2130-6-5**]  02:33 PM
                             [**2130-6-6**]  05:16 PM
                             [**2130-6-7**]  05:45 AM
   WBC
   6.5
   2.0
   Hct
   33.4
   31.4
   Plt
   150
   105
   Cr
   1.2
   1.4
   1.2
   1.5
   Glucose
   105
   121
   118
   107
   Other labs: PT / PTT / INR:14.4/25.0/1.3, ALT / AST:20/17, Alk Phos / T
   Bili:58/1.1, Albumin:3.9 g/dL, LDH:162 IU/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Name13 (STitle) 3533**] is a 71-year-old male with re-current lymphoma, admitted
   for first cycle of ICE, course complicated by volume overload and Afib
   with RVR.
   #. AFib w/RVR: likely [**12-31**] recent chemotherapy, given h/o PAF with chemo
   in the past.  He was re-transferred to the ICU for recurrent Afib with
   RVR to the 150's.  He responded well to dilt drip on prior admission to
   ICU.  BP somewhat borderline this AM.
   -- because of low BP and HR decision was made not to increase
   diltiazem.  Continue home dose of 120mg daily.
   -- deferring coumadin for now in light of decreasing platelets pending
   further discussion with BMT
   -- continue to monitor BP on diltiazem.
   #. Volume overload: appears euvolemic on exam; bilateral crackles
   persist--may be secondary to bleomycin toxicity
   -- pt had >3 L UOP yesterday.  Lasix gtt was stopped.
   -- Continue to monitor UOP.
   .
   #Thrombocytopenia - slight decrease in PLT over past several days to 80
   today likely secondary to chemotherapy
   -monitor PLT count; no need for transfusion at this time.
   -continue holding off on heparin
   #. Leukopenia (WBC 0.3) s/p Chemo with ICE (ifosfanide, mesna,
   carboplatin, etoposide)
   -- will monitor ANC
   -- scheduled for neupogen 480mg SC daily
   -- onc following
   -- continue levoquin for prior low grade fevers; afebrile >24hrs; will
   discuss length of treatment with BMT
   .
   # Hypercholesterolemia: continue outpatient regimen.
   -Lovastatin 20mg
   ICU Care
   Nutrition: : Regular Diet; check [**Hospital1 **] lytes while diuresing
   Glycemic Control: controlled
   Lines: PICC
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Present for key portions of history and physical exam.  Agree with
   assessment and plan as above.  With diuresis he is much more stable.
   Seems he does not need the higher dose of diltiazem when euvolemic.
   Counts are starting to decline
 will transfer to 7F.
   Time spent: 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2130-6-8**] 15:33 ------